US08222248B2
To a solution of {4-[5-(3,4-dimethylphenylcarbamoyl)-1H-benzoimidazol-2-yl]-3,5-dimethylphenylamino}-acetic acid methyl ester (80 mg) in THF (5 mL), cooled at 0° C. in an ice bath, was added LiAlH4 (1M in THF, 0.26 mL) dropwise. The mixture was warmed to room temperature. After 1 hr, the reaction was quenched with 2 drops of water and filtered. The organic layer was dried, filtered and concentrated. The residue was purified by flash chromatography using hexanes/ethyl acetate (1:4) to afford 2-[4-(2-hydroxyethylamino)-2,6-dimethylphenyl]-1H-benzoimidazole-5-carboxylic acid (3,4-dimethyl-phenyl)-amide as a light yellow solid. MS (ESI)m/z 429 (M+H). 1H NMR (MeOD, 400 MHz) δ 8.20 (s, 1H), 7.87 (dd, 1H), 7.67 (s, 1H), 7.48 (d, 1H), 7.43 (dd, 1H), 7.13 (d, 1H), 6.47 (s, 2H), 3.74 (t, 2H), 3.27 (t, 2H), 2.30 (s, 3H), 2.26 (s, 3H), 2.09 (s, 6H).

reactant | {4-[5-(3,4-dimethylphenylcarbamoyl)-1H-benzoimidazol-2-yl]-3,5-dimethylphenylamino}-acetic acid methyl ester | 80 mg | COC(CNC1=CC(=C(C(=C1)C)C1=NC2=C(N1)C=CC(=C2)C(NC2=CC(=C(C=C2)C)C)=O)C)=O | C27H28N4O3
reactant | LiAlH4 | 1M, 0.26 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-[4-(2-hydroxyethylamino)-2,6-dimethylphenyl]-1H-benzoimidazole-5-carboxylic acid (3,4-dimethyl-phenyl)-amide | CC=1C=C(C=CC1C)NC(=O)C1=CC2=C(NC(=N2)C2=C(C=C(C=C2C)NCCO)C)C=C1 | C26H28N4O2
